US04987132
A solution of 2.47 g of 1-bromo-4-phenylbutane in 5 ml of 2-butanone was added to a mixture of 1.93 g of 1-ethoxycarbonylpiperazine, 1.76 g of potassium carbonate and 15 ml of 2-butanone at room temperature. After stirring at 80° C. for 12 hours, the mixture was cooled and, after addition of water, extracted with ethyl acetate. The extract was washed with water and saturated aqueous solution of sodium chloride in that order and dried over anhydrous sodium sulfate. The residue obtained after concentration under reduced pressure was purified by silica gel column chromatography (eluent:hexane-ethyl acetate=4:1) to give 1-ethoxycarbonyl-4-(4-phenylbutyl)piperazine. The compound obtained was dissolved in 20 ml of ethanol and 20 ml of 10% aqueous solution of sodium hydroxide, and the solution was stirred at 100° C. for 12 hours. After cooling, the reaction mixture was extracted with ethyl acetate, and the extract was washed with saturated aqueous solution of sodium chloride and dried over anhydrous sodium sulfate. After concentration under reduced pressure, the residue was purified by silica gel column chromatography (eluent:chloroform-methanol-25% aqueous ammonia=100:10:1) to give 1.5 g cf 1-(4-phenylbutyl)piperazine as an oil.

reactant | 1-bromo-4-phenylbutane | 2.47 g | BrCCCCC1=CC=CC=C1 | C10H13Br
reactant | 1-ethoxycarbonylpiperazine | 1.93 g | C(C)OC(=O)N1CCNCC1 | C7H14N2O2
reactant | potassium carbonate | 1.76 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | 2-butanone | 5 ml | CC(CC)=O | C4H8O
solvent | 2-butanone | 15 ml | CC(CC)=O | C4H8O
product | 1-ethoxycarbonyl-4-(4-phenylbutyl)piperazine | C(C)OC(=O)N1CCN(CC1)CCCCC1=CC=CC=C1 | C17H26N2O2
